Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
laparoscopic cholecystectomy

 
History of Present Illness:
___ y.o. man who complains of episodes of bandlike upper
abdominal pain with occasional radiation towards his back,
greater in the RLQ which are accompanied by multiple episodes of
emesis.  These episodes usually follow a few hours after a meal.
Episodes began over 6 months ago and have occurred every few
weeks with increasing severity. The latest episode occurred on
___ when he was in ___. He was seen in an ED there 
and
an abdominal CT showed cholelithiasis.  His emesis is gastric
contents and bilious, with occasional streaks of blood after
prolonged retching.  He denies changes in bowel habits or blood
in he stool. No history of jaundice. He has no history of ulcer
disease or alcoholism.
 
Past Medical History:
1)Mitral Valve Prolapse  
2)Mitral Valve Regurgitation  
3)CAD  
4)Hypertension  
5)Hyperlipidemia  
6)Prior Back Surgery  
7)History of Amarosis Fugax  
8)Post-operative rapid A-fib  

 
Social History:
___
Family History:
Both parents died in their ___.
 
Physical Exam:
Vitals: 97.3  68  147/80  16  98% RA 
GEN: A&O, NAD, no jaundice
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, moderate tenderness to palpation win 
RUQ
and LUQ, no rebound or guarding, equivocal ___ sign. Liver
edge not palpable. normoactive bowel sounds, no palpable masses.

 
Pertinent Results:
___ 11:30AM   ___ PTT-23.2 ___
___ 11:30AM   WBC-7.2 RBC-5.05 HGB-15.6 HCT-44.2 MCV-88 
MCH-30.8 MCHC-35.2* RDW-13.5
___ 11:30AM   LIPASE-61*
___ 11:30AM   ALT(SGPT)-17 AST(SGOT)-24 ALK PHOS-72 
AMYLASE-66 TOT BILI-1.2 DIR BILI-0.3 INDIR BIL-0.9
___ 11:30AM   GLUCOSE-90 UREA N-12 CREAT-1.3* SODIUM-140 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-28 ANION GAP-15
___ 11:54AM   HGB-16.3 calcHCT-49
___ 11:54AM   NA+-141 K+-4.0 CL--99* TCO2-28
___ 12:48PM   LACTATE-1.4
 
Brief Hospital Course:
Mr. ___ was admitted to the acute care surgery service for 
biliary colic and cholelithiasis. After lengthy discussion with 
the service Dr. ___ the patient decided that the best 
course would be to undergo a laparoscopic cholecystectomy.

Neuro: The patient was alert and oriented during his stay. No 
evidence of neuro abnormalities. The patient's pain was 
controlled post-operatively with both IV and PO analgesics.

Cardio: The patient's vital signs were monitored during his 
stay. The patient was hemodynamically stable during the 
admission. no evidence of acute cardiac abnormalities.

Resp: No evidence of acute pulmonary disease. THe patient was 
encouraged to use the incentive spirometer post-operatively.

GI: The patient was admitted with evidence of biliary colic and 
cholelithiasis. The patient underwent a laparoscopic 
cholecystectomy. The patient had no complications during his 
surgery. Post-operatively the patient did well. His pain was 
well controlled. His diet was advanced to regular without nausea 
or vomiting.

ID: The patient had no evidence of any acute infectious process. 
The patient did not receive any antiobiotics during his 
admission. He was discharged afebrile.

Mr. ___ was discharged in good condition. His pain was 
controlled with PO analgesics. He was tolerating a normal diet. 
Patient will follow up in the ___ clinic within 2 weeks.
 
Medications on Admission:
 ezetimibe [Zetia] 
10 mg Tablet 
1 Tablet(s) by mouth once a day  ___
___,
 ___ 30 Tablet 6 (Six) ___ Care)  
  fluticasone 
50 mcg Spray, Suspension 
1 spray(s) nasally once a day each nostril  ___
___,
 ___ 2 Bottle 6 (Six) ___ Care)  
  lisinopril 
5 mg Tablet 
1 Tablet(s) by mouth once a day  ___
___,
 ___ 90 Tablet 3 (Three) ___ Care)  
  metoprolol succinate [Toprol XL] 
50 mg Tablet Extended Release 24 hr 
2 Tablet(s) by mouth once  ___
Modified ___,
 ___ 60 Tablet 6 (Six) ___ Care)  
  rosuvastatin [Crestor] 
20 mg Tablet 
1 Tablet(s) by mouth once a day  

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
2. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
5. rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every six 
(6) hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis, biliary colic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Acute care surgery service for 
cholelithiasis and biliary colic.
 

___ Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 20 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.
 
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___